US07378418B2
Preparation of (R)-2-((1-Benzylpyrrolidin-2-yl)methyl)-7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one
The title compound was prepared using 7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one, (50 mg, 0.14 mmol), prepared as described in Example 1, Ph3P (110 mg, 0.42 mmol) and (S)-1-benzyl-2-pyrrolidinemethanol (27 mg, 0.14 mmol) in THF (1.0 mL) and by following the procedure described in Example 2. The title compound, (R)-2-((1-benzylpyrrolidin-2-yl)methyl)-7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one, (8 mg, 11%) was obtained as yellow powder. MS M+H=530; 1H NMR (CDCl3) δ 8.14 (1H, s), 7.22-7.38 (11H, m), 7.10 (2H, d, J=10.0 Hz), 4.61-4.63 (1H, m), 3.50-3.56 (2H, q, J=13.2 Hz), 3.01 (1H, d, J=10.0 Hz), 2.85 (1H, d, J=10.0 Hz), 2.37-2.42 (1H, t, J=10.7 Hz), 1.99-2.02 (2H, m), 1.82-1.95 (1H, m), 1.70-1.80 (2H, m).

reactant | 7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 0.14 mmol, 50 mg | ClC1=CC=C(C=C1)C1=C(C=2N(N=C1)C(NN2)=O)C2=CC=C(C=C2)Cl | C17H10Cl2N4O
reactant | Ph3P | 0.42 mmol, 110 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | (S)-1-benzyl-2-pyrrolidinemethanol | 0.14 mmol, 27 mg | C(C1=CC=CC=C1)N1[C@@H](CCC1)CO | C12H17NO
solvent | THF | 1.0 mL | C1CCOC1 | C4H8O
product | (R)-2-((1-benzylpyrrolidin-2-yl)methyl)-7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 8 mg, 11% | C(C1=CC=CC=C1)N1[C@H](CCC1)CN1N=C2N(N=CC(=C2C2=CC=C(C=C2)Cl)C2=CC=C(C=C2)Cl)C1=O | C29H25Cl2N5O
